US04666923
7,7-Dimethyl-2-(4-pyridylmethyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one monohydrate
A suspension of 7.3 g. (0.038 mol) 5,6-diamino-3,3-dimethylindolin-2-one in 11.6 g. (0.077 mol) methyl 4-pyridylacetate is heated, while stirring, under an atmosphere of nitrogen for about 16 hours to 180° C. Subsequently, excess ester is distilled off in a vacuum and the residue obtained is separated on silica gel (elution agent: dichloromethane/ammonia-saturated methanol 20:1 v/v). Yield: 1.8 g. (16% of theory); m.p. 333°-337° C. (recrystallised from water/methanol 10:1 v/v).

reactant | 5,6-diamino-3,3-dimethylindolin-2-one | 0.038 mol | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | methyl 4-pyridylacetate | 0.077 mol | N1=CC=C(C=C1)CC(=O)OC | C8H9NO2
product | 7,7-Dimethyl-2-(4-pyridylmethyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one monohydrate | O.CC1(C(NC2=CC3=C(N=C(N3)CC3=CC=NC=C3)C=C21)=O)C | InChI=1S/C17H16N4O.H2O/c1-17(2)11-8-13-14(9-12(11)21-16(17)22)20-15(19-13)7-10-3-5-18-6-4-10;/h3-6,8-9H,7H2,1-2H3,(H,19,20)(H,21,22);1H2
